data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
329,358,[CH2:11]=[N+:12]([CH3:13])[C-:14]([C:15]#[N:16])[C:17](=[O:18])[NH:19][CH3:20].[N:1]#[C:2][C:3]1=[C:4]([F:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[N:1]#[C:2][C:3]12[C:4]([F:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[CH2:11][N:12]([CH3:13])[C:14]2([C:15]#[N:16])[C:17](=[O:18])[NH:19][CH3:20],water,298.15,19.231956731973945,-25.143431120650497
2747,3053,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][C:12]([Cl:13])([C:14]([F:15])([F:16])[F:17])[CH2:18][CH2:19][CH2:20][CH2:21]1.[CH3:22][O:23][C:24](=[O:25])[C:26]([C:27]#[N:28])=[NH+:29][C-:30]([CH3:31])[c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([C:12]([Cl:13])([C:14]([F:15])([F:16])[F:17])[CH2:18][CH2:19][CH2:20][CH2:21]1)[C:30]([CH3:31])([c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1)[NH:29][C:26]2([C:24]([O:23][CH3:22])=[O:25])[C:27]#[N:28],water,298.15,21.46815456164101,-12.319170234279095
4914,5598,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C-:19]([CH3:20])[N+:21]([CH3:22])=[C:23]([CH3:24])[C:25]#[N:26]>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:19]([C:17]([NH:16][CH3:15])=[O:18])([CH3:20])[N:21]([CH3:22])[C:23]2([CH3:24])[C:25]#[N:26],water,298.15,16.457517169563133,-13.645205159264714
220,240,[CH3:12][CH:13]=[NH+:14][N-:15][C:16]([CH3:17])=[O:18].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([CH3:6])([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[N:15]([C:16]([CH3:17])=[O:18])[NH:14][CH:13]2[CH3:12],water,298.15,26.5358234247632,-4.321076619752539
2819,3134,[CH3:1][O:2][C:3](=[O:4])[C:5]1([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:12]#[C:13][C:14]([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[CH2:27][CH2:28][CH2:29][CH2:30]1.[CH3:31][C:32](=[O:33])[C:34]([CH3:35])=[O+:36][C-:37]([C:38]#[N:39])[C:40]([CH3:41])=[O:42]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:12]2=[C:13]([C:14]([c:15]3[cH:16][cH:17][cH:18][cH:19][cH:20]3)([c:21]3[cH:22][cH:23][cH:24][cH:25][cH:26]3)[CH2:27][CH2:28][CH2:29][CH2:30]1)[C:34]([C:32]([CH3:31])=[O:33])([CH3:35])[O:36][C:37]2([C:38]#[N:39])[C:40]([CH3:41])=[O:42],water,298.15,27.54214481303113,-43.21630617010735
4169,4772,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[N:11]#[C:12][CH:13]=[O+:14][C-:15]([C:16]#[N:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[CH:13]([C:12]#[N:11])[O:14][C:15]2([C:16]#[N:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,6.687074907073049,-32.28991188316246
3282,3718,[CH3:9][C:10](=[O:11])[C:12]#[N+:13][N-:14][C:15]([CH3:16])=[O:17].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[N:14]([C:15]([CH3:16])=[O:17])[N:13]=[C:12]1[C:10]([CH3:9])=[O:11],water,298.15,18.39695819733516,-47.86487362214738
3097,3487,[CH2:1]=[CH2:2].[CH3:3][O:4][C:5](=[O:6])[C:7](=[O+:8][CH-:9][C:10]#[N:11])[C:12](=[O:13])[O:14][CH3:15]>>[CH2:1]1[CH2:2][CH:9]([C:10]#[N:11])[O:8][C:7]1([C:5]([O:4][CH3:3])=[O:6])[C:12](=[O:13])[O:14][CH3:15],water,298.15,8.900168034094467,-58.25829460606617
3365,3824,[CH3:10][N:11]=[NH+:12][N-:13][C:14](=[O:15])[NH:16][CH3:17].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[N:11]([CH3:10])[NH:12][N:13]1[C:14](=[O:15])[NH:16][CH3:17],water,298.15,31.88946622262301,-0.064769874921339
1852,2054,[CH3:13][NH:14][C:15](=[O:16])[C:17]([CH3:18])=[N+:19]([CH3:20])[C-:21]([C:22](=[O:23])[NH:24][CH3:25])[C:26](=[O:27])[O:28][CH3:29].[CH3:1][O:2][C:3](=[O:4])[C:5]#[C:6][c:7]1[cH:8][cH:9][cH:10][cH:11][cH:12]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[C:17]([C:15]([NH:14][CH3:13])=[O:16])([CH3:18])[N:19]([CH3:20])[C:21]1([C:22](=[O:23])[NH:24][CH3:25])[C:26](=[O:27])[O:28][CH3:29],water,298.15,31.41441406546317,-41.46766783358538
2774,3083,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]#[C:10][C:11]([C:12](=[O:13])[O:14][CH3:15])([C:16](=[O:17])[O:18][CH3:19])[CH2:20][CH2:21][CH2:22][CH2:23]1.[CH3:24][O:25][C:26](=[O:27])[C:28]([C:29]#[N:30])=[N+:31]([CH3:32])[CH-:33][c:34]1[cH:35][cH:36][cH:37][cH:38][cH:39]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]2=[C:10]([C:11]([C:12](=[O:13])[O:14][CH3:15])([C:16](=[O:17])[O:18][CH3:19])[CH2:20][CH2:21][CH2:22][CH2:23]1)[C:28]([C:26]([O:25][CH3:24])=[O:27])([C:29]#[N:30])[N:31]([CH3:32])[CH:33]2[c:34]1[cH:35][cH:36][cH:37][cH:38][cH:39]1,water,298.15,16.114621140037,-35.425534363051625
